US05958942
iii) Synthesis of 4,5-dihydro-4-(1-trifluoromethanesulfonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride
To a solution prepared by dissolving 580 mg (1.44 mM) of 4,5-dihydro-4-(1-trifluoromethanesulfonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one in 10 ml of ethanol was added 0.24 ml (2.88 mM) of 12N-hydrochloric acid with stirring. The resulting solution was concentrated under reduced pressure and the precipitate was recovered by filtration. The precipitate was rinsed with a small amount of ether and dried in vacuo to provide 480 mg (yield 80.0%) of the title compound as white solid.

reactant | 4,5-dihydro-4-(1-trifluoromethanesulfonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one | 1.44 mM, 580 mg | FC(S(=O)(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C16H17F3N4O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(1-trifluoromethanesulfonylpiperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylen-3-one hydrochloride | 480 mg, yield 80.0% | Cl.FC(S(=O)(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | InChI=1S/C16H17F3N4O3S.ClH/c17-16(18,19)27(25,26)22-6-4-11(5-7-22)9-21-10-12-2-1-3-14-20-8-13(15(21)24)23(12)14;/h1-3,8,11H,4-7,9-10H2;1H
